US06573270B1
4-(tert-Butyl)-N-[3-methoxy-4-(2-methoxyphenoxy)-1-methyl-1H-pyrazol-5-yl]benzenesulfonamide
A solution of 3-methoxy-4-(2-methoxyphenoxy)-1-methyl-1H-pyrazol-5-amine (Preparation 68) (45 mg), (4-tert-butyl)benzenesulfonamide (42 mg) and 4-dimethylaminopyridine (22 mg) in dry pyridine (2 ml) was stirred at room temperature for 16 hours. A further aliquot of (4-tert-butyl)benzenesulfonamide (42 mg) was added to the reaction mixture and stirring at room temperature was continued for a further 24 hours. The reaction mixture was diluted with ethanol (2 ml) and 1.0M aqueous sodium hydroxide solution (4 ml) and was then stirred at room temperature for 4 hours. The mixture was diluted with aqueous 1.0M hydrochloric acid (20 ml) and then extracted with ethyl acetate (3×15 ml). The combined organic extracts were washed with aqueous 1.0M hydrochloric acid (20 ml), dried (magnesium sulfate) and then concentrated under vacuum. The residue was purified by chromatography on silica (5 g) using 40% ethyl acetate/pentane as eluant to give the title compound as an off-white solid (27 mg), Rf 0.85 (ethyl acetate), m.p. 187.6° C.

reactant | 3-methoxy-4-(2-methoxyphenoxy)-1-methyl-1H-pyrazol-5-amine | 45 mg | COC1=NN(C(=C1OC1=C(C=CC=C1)OC)N)C | C12H15N3O3
reactant | (4-tert-butyl)benzenesulfonamide | 42 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C10H15NO2S
reactant | (4-tert-butyl)benzenesulfonamide | 42 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C10H15NO2S
catalyst | 4-dimethylaminopyridine | 22 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1.0M, 4 ml | [OH-].[Na+]
solvent | hydrochloric acid | 1.0M, 20 ml | Cl | ClH
product | 4-(tert-Butyl)-N-[3-methoxy-4-(2-methoxyphenoxy)-1-methyl-1H-pyrazol-5-yl]benzenesulfonamide | 27 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1C)OC)OC1=C(C=CC=C1)OC | C22H27N3O5S
